US05602253
(viii) 3-(N-tert-butyloxycarbonylaminoethyl)-1-(N-benzyloxycarbony lamidino) azetidine (Boc-Dig(Z))
The title compound was prepared from 3-(N-tert-butyloxycarbonylaminoethyl) azetidine according the procedure for 3-(N-tert-butyloxycarbonylaminomethyl)-1-(N-benzyloxycarbon ylamidino) azetidine, in a yield of 0.090 g (34%).

reactant | 3-(N-tert-butyloxycarbonylaminoethyl) azetidine | C(C)(C)(C)OC(=O)NCCC1CNC1 | C10H20N2O2
reactant | 3-(N-tert-butyloxycarbonylaminomethyl)-1-(N-benzyloxycarbon ylamidino) azetidine | C(C)(C)(C)OC(=O)NCC1CN(C1)C(NC(=O)OCC1=CC=CC=C1)=N | C18H26N4O4
product | 3-(N-tert-butyloxycarbonylaminoethyl)-1-(N-benzyloxycarbony lamidino) azetidine | C(C)(C)(C)OC(=O)NCCC1CN(C1)C(NC(=O)OCC1=CC=CC=C1)=N | C19H28N4O4
